US05155113
Preparation of 3'-O-benzyl-2'-deoxy-3-(2-tetrahydrofuranyl)-5-fluorouridine
A 1.32 g quantity of N,O-bis(trimethylsiliyl)-acetamide was added with stirring to a suspension of 0.40 g of 3'-O-benzyl-2'-deoxy-5-fluorouridine in 8 ml of dry dichloromethane at room temperature. To the mixture were added, after 4 hours, 0.32 g of 2-acetoxytetrahydrofuran and a solution of 0.1 ml of stannic chloride in 1.6 ml of dry dichloromethane. The mixture was stirred for 1.5 hours and neutralized with 0.64 ml of triethylamine and washed with water. The dichloromethane layer was concentrated and the residue was dissolved in 16 ml of methanol. To the solution was added 0.24 ml of acetic acid and the mixture was left to stand for 3 hours at 40° C. The solvent was distilled off and the residue was subjected to silica gel column chromatography to conduct a gradient elution using chloroform and mixtures of methanol (up to 4%) and chloroform, giving 0.3 g of the title compound in a yield of 77%.

reactant | 3'-O-benzyl-2'-deoxy-5-fluorouridine | 0.40 g | C(C1=CC=CC=C1)O[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(=C1)F | C16H17FN2O5
reactant | 2-acetoxytetrahydrofuran | 0.32 g | C(C)(=O)OC1OCCC1 | C6H10O3
reactant | triethylamine | 0.64 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1.6 ml | ClCCl | CH2Cl2
product | 3'-O-benzyl-2'-deoxy-3-(2-tetrahydrofuranyl)-5-fluorouridine | 0.3 g, yield of 77% | C(C1=CC=CC=C1)O[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)N(C(=O)C(=C1)F)C1OCCC1 | C20H23FN2O6
